US08735598B2
Diethyl Dioxobutanedioate (Step A-1)
L-Tartaric acid diethyl ester (300 g), acetic acid (3 l), 1,3-dibromo-5,5-dimethylhydantoin (894 g) and 2,2′-azobis(4-methoxy-2,4-dimethylvaleronitrile) (4.5 g) were mixed, and the reaction solution was stirred at 55° C. for 3 hours. The reaction solution was concentrated under reduced pressure until its volume became 1.5 l to afford a solution of the title compound in acetic acid as a yellow liquid.

reactant | L-Tartaric acid diethyl ester | 300 g | C(C)OC([C@H](O)[C@@H](O)C(=O)OCC)=O | C8H14O6
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 894 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | 2,2′-azobis(4-methoxy-2,4-dimethylvaleronitrile) | 4.5 g | N(=NC(C#N)(CC(C)(OC)C)C)C(C#N)(CC(C)(C)OC)C | C16H28N4O2
solvent | acetic acid | 3 l | C(C)(=O)O | C2H4O2
product | Diethyl Dioxobutanedioate | O=C(C(C(=O)OCC)=O)C(=O)OCC | C8H10O6
